US05013854
Trimethylsilyl phenoxyacetate
Phenoxyacetic acid ammonium salt, tetrabutylammonium bromide, and hexamethyldisilazane are refluxed in methylene chloride to provide the title compound.

reactant | Phenoxyacetic acid ammonium salt | [NH4+].O(C1=CC=CC=C1)CC(=O)[O-]
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Trimethylsilyl phenoxyacetate | O(C1=CC=CC=C1)CC(=O)O[Si](C)(C)C | C11H16O3Si
